US08420655B2
To a round bottom flask is added 5-(4-tert-Butylamino-3-nitro-phenyl)-4-methoxy-pyrimidin-2-ylamine (150 mg, 0.473 mmol) in MeOH (5 mL), followed by the addition of ammonium formate (268 mg, 4.25 mmol) and of zinc dust (154 mg, 2.37 mmol). The reaction mixture is stirred at 50° C. for 1 hour. The reaction mixture is filtered through diatomaceous earth, washing with MeOH. The filtrate is concentrated in vacuo. The residue is diluted with EtOAc, washed with water, dried with Na2SO4, filtered and concentrated to afford 4-(2-amino-4-methoxy-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (118 mg, 87%) as a light brown solid. LCMS (ESMS): m/z 288.48 (M++1)

reactant | 5-(4-tert-Butylamino-3-nitro-phenyl)-4-methoxy-pyrimidin-2-ylamine | 0.473 mmol, 150 mg | C(C)(C)(C)NC1=C(C=C(C=C1)C=1C(=NC(=NC1)N)OC)[N+](=O)[O-] | C15H19N5O3
reactant | ammonium formate | 4.25 mmol, 268 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | zinc | 2.37 mmol, 154 mg | [Zn] | Zn
product | 4-(2-amino-4-methoxy-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 118 mg, 87% | NC1=NC=C(C(=N1)OC)C=1C=C(C(=CC1)NC(C)(C)C)N | C15H21N5O
